US05281593
v) 7-(Benzyloxy)indole
Wet Raney nickel was added in portions to a stirred refluxing solution of 7-(benzyloxy)-3-(methylthio)indole (4.0 g, 14.9 mmol) in ethyl acetate (100 ml) and ethanol (60 ml) until all the starting material had been consumed (by RP HPLC). The mixture was filtered, the filtrate evaporated and the residue chromatographed on silica in ethyl acetate-hexane (1:8) to give a pale oil.

reactant | 7-(benzyloxy)-3-(methylthio)indole | 14.9 mmol, 4.0 g | C(C1=CC=CC=C1)OC=1C=CC=C2C(=CNC12)SC | C16H15NOS
catalyst | Raney nickel | [Ni] | Ni
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 7-(Benzyloxy)indole | C(C1=CC=CC=C1)OC=1C=CC=C2C=CNC12 | C15H13NO
